### PR TITLE
feat: BitVec.toInt_abs

### PR DESCRIPTION
**Pull request by bollu**
This PR implements `BitVec.toInt_abs`.

The absolute value of `x : BitVec w` is naively a case split on the sign of `x`.
However, recall that when `x = intMin w`, `-x = x`.
Thus, the full value of `abs x` is computed by the case split:
- If `x : BitVec w` is `intMin`, then its absolute value is also `intMin w`, and
  thus `toInt` will equal `intMin.toInt`.
- Otherwise, if `x` is negative, then `x.abs.toInt = (-x).toInt`.
- Finally, when `x` is nonnegative, then `x.abs.toInt = x.toInt`.

```lean
theorem toInt_abs {x : BitVec w} :
  x.abs.toInt =
    if x = intMin w then (intMin w).toInt
    else if x.msb then -x.toInt
    else x.toInt
```

We also provide a variant of `toInt_abs` that
hides the case split for `x` being positive or negative by using `natAbs`.
```lean
theorem toInt_abs_eq_natAbs {x : BitVec w} : x.abs.toInt =
    if x = intMin w then (intMin w).toInt else x.toInt.natAbs
```

Supercedes https://github.com/leanprover/lean4/pull/5787

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3131,6 +3136,50 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+  x.abs.toInt =
+    if x = intMin w then (intMin w).toInt
+    else if x.msb then -x.toInt
+    else x.toInt := by
+  by_cases hx : x = intMin w
+  · simp [hx]
+  · simp [hx]
+    by_cases hx₂ : x.msb
+    · simp only [abs_eq, hx₂, ↓reduceIte, toInt_neg_of_ne_intMin hx]
+    · simp [hx₂, hx, abs_eq]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3158]:
```suggestion
    · simp [hx₂, abs_eq, toInt_neg_of_ne_intMin hx]
    · simp [hx₂, hx, abs_eq]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3002,6 +3002,11 @@ theorem toInt_neg_of_ne_intMin {x : BitVec w} (rs : x ≠ intMin w) :
   have := @Nat.two_pow_pred_mul_two w (by omega)
   split <;> split <;> omega
 
+theorem toInt_neg_eq_ite {x : BitVec w} :
+    (-x).toInt = if x = intMin w then x.toInt else -(x.toInt) := by
+  by_cases hx : x = intMin w <;>
+    simp [hx, neg_intMin, toInt_neg_of_ne_intMin]
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3009]: Is this theorem unused in your PR? In case it is, you may not need to stack your PR.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -3131,6 +3136,50 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+  by_cases hx : x = intMin w
+  · simp [hx]
+  · simp [hx]
+    by_cases hx₂ : x.msb
+    · simp only [abs_eq, hx₂, ↓reduceIte, toInt_neg_of_ne_intMin hx]
+    · simp [hx₂, hx, abs_eq]
+
+/--
+A variant of `toInt_abs` that
+hides the case split for `x` being positive or negative by using `natAbs`.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3162]:
```suggestion
A variant of `toInt_abs` that hides the case split for `x` being positive or negative by using `natAbs`.
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -3131,6 +3136,50 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+-/
+theorem toInt_abs_eq_natAbs {x : BitVec w} : x.abs.toInt =
+    if x = intMin w then (intMin w).toInt else x.toInt.natAbs := by
+  rw [toInt_abs]
+  by_cases hx : x = intMin w
+  · simp [hx]
+  · simp [hx]
+    by_cases h : x.msb
+    · simp [h]
+      have : x.toInt < 0 := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3172]:
```suggestion
    · simp only [h, ↓reduceIte]
      have : x.toInt < 0 := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -3131,6 +3136,50 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+        rw [toInt_neg_iff]
+        have := msb_eq_true_iff_two_mul_ge.mp h
+        omega
+      omega
+    · simp [h]
+      have : 0 ≤ x.toInt := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3178]:
```suggestion
    · simp only [h, Bool.false_eq_true, ↓reduceIte]
      have : 0 ≤ x.toInt := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:3009]: Right, I avoided using it.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3009]: Maybe also remove the mention of stacking in your PR.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -3131,6 +3136,49 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+    if x = intMin w then (intMin w).toInt
+    else if x.msb then -x.toInt
+    else x.toInt := by
+  by_cases hx : x = intMin w
+  · simp [hx]
+  · simp [hx]
+    by_cases hx₂ : x.msb
+    · simp [hx₂, abs_eq, toInt_neg_of_ne_intMin hx]
+    · simp [hx₂, hx, abs_eq]
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3159]:
```suggestion
    · simp [hx₂, abs_eq]

```

**Comment by tobiasgrosser** [comment]
Can you drop the mention of 'stacked pr' in the commit message?

**Comment by bollu** [comment]
@tobiasgrosser done

**Review by tobiasgrosser — APPROVED** [review]

**Comment by bollu** [comment]
awaiting-review

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -3002,6 +3002,11 @@ theorem toInt_neg_of_ne_intMin {x : BitVec w} (rs : x ≠ intMin w) :
   have := @Nat.two_pow_pred_mul_two w (by omega)
   split <;> split <;> omega
 
+theorem toInt_neg_eq_ite {x : BitVec w} :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3005]:
```suggestion
theorem toInt_neg {x : BitVec w} :
```
I think the short name is fine for the "no side conditions" statement, unless you think we will need other lemmas with the same LHS.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -3131,6 +3136,49 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+        rw [toInt_neg_iff]
+        have := msb_eq_true_iff_two_mul_ge.mp h
+        omega
+      omega
+    · simp only [h, Bool.false_eq_true, ↓reduceIte]
+      have : 0 ≤ x.toInt := by
+        rw [toInt_pos_iff]
+        exact msb_eq_false_iff_two_mul_lt.mp (by simp [h])
+      omega
+
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3181]: Let's also add `toInt_abs_of_ne_intMin`, which gives the "generic case rewrite", but with a side condition.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -3131,6 +3136,49 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+  · simp [hx]
+    by_cases hx₂ : x.msb
+    · simp [hx₂, abs_eq, toInt_neg_of_ne_intMin hx]
+    · simp [hx₂, abs_eq]
+
+/--
+A variant of `toInt_abs` that hides the case split for `x` being positive or negative by using `natAbs`.
+-/
+theorem toInt_abs_eq_natAbs {x : BitVec w} : x.abs.toInt =
+    if x = intMin w then (intMin w).toInt else x.toInt.natAbs := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3164]: I think I'm happy with these, but just checking: if you think this second lemma will be more useful in practice, lets give it the `toInt_abs` short name, and rename the other one.

**Comment by kim-em** [comment]
It doesn't need to be in this PR, but I would like to also have
```
theorem natAbs_toInt (x : BitVec w) : x.toInt.natAbs = if x.msb then x.toNat - (2^(w-1) - 1) else x.toNat
```
(didn't check the RHS carefully, but something like that ought to be true).

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:3164]: Done and pushed! I may need some more experience to really tell, but it feels like `toInt_abs_eq_natAbs` will be easier to work with in practice.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 8 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:3196]: Done! Added it for both variants, which seems strictly more helpful.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -3131,6 +3136,73 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+      omega
+    · simp only [h, Bool.false_eq_true, ↓reduceIte]
+      have : 0 ≤ x.toInt := by
+        rw [toInt_pos_iff]
+        exact msb_eq_false_iff_two_mul_lt.mp (by simp [h])
+      omega
+
+/-
+The absolute value of `(x : BitVec w)`, when interpreted as an integer,
+is the absolute value of `x.toInt` when `(x ≠ intMin)`
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3199]:
```suggestion
is the absolute value of `x.toInt` when `(x ≠ intMin)`.
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 7 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:3005]: Yeah, I'm uncertain here. The `bmod` version is nice if you're already in a context where you're reasoning about `bmod`, and it's nice to not have `if` on the right hand side. Perhaps neither of them get the short name?

I'm happy for you to make the call here, and we can merge either way.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -3131,6 +3136,73 @@ theorem getMsbD_abs {i : Nat} {x : BitVec w} :
...
+-/
+theorem toInt_abs_eq_ite_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
+  x.abs.toInt = if x.msb then -x.toInt else x.toInt := by
+  simp [toInt_abs_eq_ite, hx]
+
+
+/--
+The absolute value of `x : BitVec w`, interpreted as an integer, is a case split:
+- When `x = intMin w`, then `x.abs = intMin w`
+- Otherwise, `x.abs.toInt` equals the absolute, which is `x.toInt.natAbs`.
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3174]: "equals the absolute" I think has some words missing?

**Comment by kim-em** [comment]
Otherwise looking good now. Switch back to `awaiting-review` when you're ready for me to merge.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 7 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:3005]: I elected to give neither of them a short name.

**Comment by bollu** [comment]
awaiting-review
